US07569589B2
To the solution of 3-{hydroxy[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile (1.65 g, 6.41 mmol) in CCl4 (10 mL) and CH2Cl2(10 mL) was added triphenylphophine (2.36 g, 8.98 mmol) and stirred for 4 h. The mixture was concentrated and the residue was purified by silica gel chromatography (20% EtOAc in hexane) to give 3-{chloro[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile. 1H-NMR (500 MHz, CDCl3) δ 8.58 (d, 1H, J=5.1), 7.79 (s, 1H), 7.70 (d, 1H, J=8.1), 7.62 (d, 1H, J=7.8), 7.49 (t, 1H, J=7.8), 7.25 (d, 1H, J=4.9), 5.92 (s, 1H), 2.51 (s, 3H). LRMS m/z (M+H) Calcd: 276.8, found: 276.0.

reactant | 3-{hydroxy[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile | 6.41 mmol, 1.65 g | OC(C=1C=C(C#N)C=CC1)C1=NC(=NC=C1)SC | C13H11N3OS
reactant | triphenylphophine | 8.98 mmol, 2.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{chloro[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile | ClC(C=1C=C(C#N)C=CC1)C1=NC(=NC=C1)SC | C13H10ClN3S
